US05726175
tert-Butyl 2-ethoxycarbonyl imidazole-4-carboxylate can be prepared as follows: the procedure is as in Example 1 but starting from 15 g of ethyl α-aminooximinoacetate, 500 ml of xylene, 19.1 of triethylamine and 14.3 ml of tert-butyl propiolate. The crude product (19 g) is chromatographed on a silica column, eluting with a mixture of cyclohexane and ethyl acetate (50-50 by volume) to give 5 g of tert-butyl 2-ethoxycarbonylimidazole-4-carboxylate, employed as such in the subsequent syntheses.

reactant | ethyl α-aminooximinoacetate | 15 g | NC(C(=O)OCC)=NO | C4H8N2O3
reactant | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | tert-butyl propiolate | 14.3 ml | C(C#C)(=O)OC(C)(C)C | C7H10O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | tert-butyl 2-ethoxycarbonylimidazole-4-carboxylate | 5 g | C(C)OC(=O)C=1NC=C(N1)C(=O)OC(C)(C)C | C11H16N2O4
